US07160888B2
Synthesis of 7-[4-(4-Naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one
To a mixture of 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (175 mg, 0.754 mmol) and 1-naphthalen-1-yl-piperazine hydrochloride (206 mg, 0.829 mmol) in DCE (4 mL) was added Et3N (0.23 mL, 1.66 mmol). The mixture was stirred for 10 min and NaBH(OAc)3 (224 mg, 1.06 mmol) was added as a powder. The reaction was stirred at room temperature for 2 h and then quenched with saturated NaHCO3. The mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated to give a white foam. Purification by liquid chromatography (5% MeOH/CH2Cl2) gave the title compound as a white foam (260 mg, 0.607 mmol, 80%). The foam was dissolved in a minimal amount of CH2Cl2 and Et2O was added. 1M HCl in Et2O (0.6 mL) was added and a white precipitate formed. The solid was collected by filtration, washed with Et2O and dried to give a white fluffy solid (257 mg). MS: APCI: M+1: 429.2 (Exact Mass: 428.22).

reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 0.754 mmol, 175 mg | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
reactant | 1-naphthalen-1-yl-piperazine hydrochloride | 0.829 mmol, 206 mg | Cl.C1(=CC=CC2=CC=CC=C12)N1CCNCC1
reactant | Et3N | 1.66 mmol, 0.23 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.06 mmol, 224 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
product | 7-[4-(4-Naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one | 0.607 mmol, 260 mg, 80% | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCOC1=CC=C2C=CC(NC2=N1)=O | C26H28N4O2
